US07423158B2
A solution of 0.245 gm (1.16 mmol) of 1-bromo-3-but-3-enylbenzene in CH2Cl2 at 0° C. was treated with 0.39 gm (1.74 mmol) of N-iodosuccinimide and 1.05 gm (1.74 mmol) of 50% wt/wt tetrabutylammoniumdihydrogen trifluoride in CH2Cl2, stirred at 0° C. for 2 h, warmed to room temperature over a 1 h period and poured into CH2Cl2. The resultant organic phase was washed sequentially with water and brine, dried over Na2SO4 and concentrated under reduced pressure. Chromatography of the concentrate on silica gel with a gradient of hexanes to 7.0% EtOAc-hexanes afforded 1-bromo-3-(3-fluoro-4-iodo-butyl)-benzene as an oil, 0.40 gm (50% yield); 1H NMR (400 MHz, CDCl3) δ: 2.03 (m, 2H), 2.74 (m, 2H), 3.29 (dd, 2H, J=5.4, 19.1 Hz), 4.47 (m, 1H), 7.12 (m, 2H), 7.32 (m, 2H).

reactant | 1-bromo-3-but-3-enylbenzene | 1.16 mmol, 0.245 gm | BrC1=CC(=CC=C1)CCC=C | C10H11Br
reactant | N-iodosuccinimide | 1.74 mmol, 0.39 gm | IN1C(CCC1=O)=O | C4H4INO2
reactant | tetrabutylammoniumdihydrogen trifluoride | 1.74 mmol, 1.05 gm | CCCC[N+](CCCC)(CCCC)CCCC.F.F.[F-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-bromo-3-(3-fluoro-4-iodo-butyl)-benzene | 50% yield | BrC1=CC(=CC=C1)CCC(CI)F | C10H11BrFI
